US08114877B2
a) (1R,2S,3R,5S)-3-(6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-2-hex-1-ynyl-purin-9-yl)-5-(4-methyl-pyrazol-1-yl)-cyclopentane-1,2-diol
(1R,2S,3R,5S)-3-(6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-5-(4-methyl-pyrazol-1-yl)-cyclopentane-1,2-diol (Intermediate BB1) (0.1 g, 0.17 mmol), 1-hexyne (0.42 g, 1.70 mmol), copper (I) iodide (0.008 g, 43 μmol), dichlorobis(triphenylphosphine)palladium(II) (0.031 g, 43 μmol), triphenylphosphine (0.023 g, 86 μmol), diethylamine (1 mL) and DMF (0.5 mL) are placed in a 0.5-2.5 mL microwave vial. The reaction mixture is heated to 120° C. using microwave radiation. The reaction is shown to be complete by LCMS after 1 hour. The reaction mixture is partitioned between dichloromethane (20 mL) and 2M HCl (20 mL). The organic layer is washed with sat. NaHCO3 (20 mL), water (20 ml) and brine (20 ml), dried over MgSO4, filtered and the solvent is removed in vacuo. The title compound is obtained after purification by flash column chromatography (silica, dichloromethane/methanol 25:1). MS (ES+) m/e 622 (MH+).

reactant | (1R,2S,3R,5S)-3-(6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-5-(4-methyl-pyrazol-1-yl)-cyclopentane-1,2-diol | 0.17 mmol, 0.1 g | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)C)O)O | C29H30ClN7O4
reactant | 1-hexyne | 1.70 mmol, 0.42 g | C#CCCCC | C6H10
reactant | triphenylphosphine | 86 μmol, 0.023 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylamine | 1 mL | C(C)NCC | C4H11N
catalyst | copper (I) iodide | 43 μmol, 0.008 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 43 μmol, 0.031 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (1R,2S,3R,5S)-3-(6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-2-hex-1-ynyl-purin-9-yl)-5-(4-methyl-pyrazol-1-yl)-cyclopentane-1,2-diol | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC1=C2N=CN(C2=NC(=N1)C#CCCCC)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)C)O)O | C35H39N7O4
